US05380724
4-(2,3-Epoxypropyl-amino)benzylcyanide
A mixture of 4-aminobenzylcyanide (10 g, 75.7 mmol), epichlorohydrine (7.9 ml, 9.25 g, 100 mmol), ethanol (15 ml) and water (10 ml) was heated under reflux for 2 hours. After cooling the reaction mixture was poured into 100 ml of water and extracted with ether (3×50 ml). The organic extracts were combined and stirred with 50 ml of 10N NaOH at room temperature for 3 hours. The organic layer was separated, washed with water until neutral, dried over MgSO4 and concentrated. The residue was chromatographed over a silica gel column eluting with a 3:1 mixture of benzene and ethyl acetate to afford 7.24 g of the title compound as an oil, yield: 51.0%.

reactant | 4-aminobenzylcyanide | 75.7 mmol, 10 g | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | epichlorohydrine | 100 mmol, 7.9 ml, 9.25 g | C(Cl)C1CO1 | C3H5ClO
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-(2,3-Epoxypropyl-amino)benzylcyanide | 7.24 g, yield: 51.0% | O1C(CNC2=CC=C(CC#N)C=C2)C1 | C11H12N2O
